US04788210
starting from 3-chloro-2-fluorobenzamide and triethyloxonium tetrafluoroborate there is obtained ethyl 3-chloro-2-fluorobenzimidate as an oil; mass spectrum: 200 (10), 173 (25), 166 (15), 157 (100), 156 (73);

reactant | 3-chloro-2-fluorobenzamide | ClC=1C(=C(C(=O)N)C=CC1)F | C7H5ClFNO
reactant | triethyloxonium tetrafluoroborate | F[B-](F)(F)F.C(C)[O+](CC)CC
product | ethyl 3-chloro-2-fluorobenzimidate | ClC=1C(=C(C(OCC)=N)C=CC1)F | C9H9ClFNO
